US05068245
3-(4-tert-butylphenyl)-pyrrolidine
98 g (1 mole) of concentrated sulfuric acid were added dropwise to 29.4 g (0.2 mole) of 3-phenylpyrrolidine in 400 ml of carbon tetrachloride at 0°-5° C. After 15 minutes, 15.2 g (0.27 mole) of isobutylene were passed in gaseous form, the mixture was stirred for 1 hour at 0°-5° C. and hydrolysis was carried out with 400 ml of water at 20° C. The organic phase was separated off and the aqueous phase was extracted with twice 100 ml of dichloromethane. Working up of the organic phases gave 42 g of a crude product, which was fractionated under reduced pressure to give 13.4 g (33%) of a colorless oil of boiling point 84°-87° C./0.5 mbar.

reactant | sulfuric acid | 1 mole, 98 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-phenylpyrrolidine | 0.2 mole, 29.4 g | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | isobutylene | 0.27 mole, 15.2 g | CC(C)=C | C4H8
reactant | water | 400 ml | O | H2O
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(4-tert-butylphenyl)-pyrrolidine | 13.4 g, 33% | C(C)(C)(C)C1=CC=C(C=C1)C1CNCC1 | C14H21N
